US05166347
Preparation of N-cyano-N'-(2-nitroxyethyl)-3-quinolinecarboximidamide
Methyl N-cyano-3-quinolinecarboximidate (0.32 g, 1.5 mmol) was dissolved in methanol (3 ml), 2-nitroxyethylamine nitrate (0.42 g, 2.5 mmol) and sodium methoxide (0.12 g, 2.2 mmol) were added. The mixture was stirred at room temperature for 18 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the residue thus obtained was subjected to chromatography on a silica gel column (WAKO GEL C-200, 30 g) eluting with dichloromethane-methanol (50:1). The eluted fractions were concentrated under reduced pressure and crystallized from dichloromethane-diethyl ether to give the title compound (0.23 g, 0.80 mmol, yield: 54%) as colorless crystals.

reactant | Methyl N-cyano-3-quinolinecarboximidate | 1.5 mmol, 0.32 g | C(#N)N=C(OC)C=1C=NC2=CC=CC=C2C1 | C12H9N3O
reactant | 2-nitroxyethylamine nitrate | 2.5 mmol, 0.42 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | sodium methoxide | 2.2 mmol, 0.12 g | C[O-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | N-cyano-N'-(2-nitroxyethyl)-3-quinolinecarboximidamide | 0.80 mmol, 0.23 g, yield: 54% | C(#N)NC(=NCCO[N+](=O)[O-])C=1C=NC2=CC=CC=C2C1 | C13H11N5O3
